US06518277B1
2-Amino-3-chloro-N-(2-chlorophenyl)benzamide (1h)
Prepared according to Procedure A using 2-amino-3-chlorobenzoic acid (1.0 g, 5.82 mmol) and SOCl2 (1.1 mL, 14.6 mmol) in benzene (25 mL), followed by 2-chloroaniline (1.2 mL, 11.7 mmol) and CHCl3 (25 mL). The product was recrystallized from MeOH to provide 1.29 g of a yellow solid (78%). 1H NMR (CDCl3) δ: 8.43 (dd, J=1.4, 8.3 Hz, 1H); 8.30 (br s, 1H); 7.47 (dd, J=1.1, 8.0 Hz, 1H); 7.42 (d, J=8.0 Hz, 2H); 7.33 (dt, J=1.4, 7.9 Hz, 1H); 7.09 (dt, J=1.5, 7.7 Hz, 1H); 6.68 (t, J=7.9 Hz, 1H); 6.13 (br s, 2H). MS (ES): m/z 281.0 (M+).

reactant | 2-amino-3-chlorobenzoic acid | 5.82 mmol, 1.0 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | SOCl2 | 14.6 mmol, 1.1 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 11.7 mmol, 1.2 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-3-chloro-N-(2-chlorophenyl)benzamide | 1.29 g, 78% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=CC=C1Cl | C13H10Cl2N2O
